US09120819B2
3,3′-{methylenebis[imino(2-oxoethane-2,1-diyl)oxy]}dibenzoic acid
By following the processes described in stages A to C of Example R13, Example R37 is prepared by dimerization of [3-(ethoxycarbonyl)phenoxy]acetic acid with methylenediamine. A white powder is obtained.

reactant | [3-(ethoxycarbonyl)phenoxy]acetic acid | C(C)OC(=O)C=1C=C(OCC(=O)O)C=CC1 | C11H12O5
reactant | methylenediamine | C(N)N | CH6N2
product | 3,3′-{methylenebis[imino(2-oxoethane-2,1-diyl)oxy]}dibenzoic acid | C(NC(COC=1C=C(C(=O)O)C=CC1)=O)NC(COC=1C=C(C(=O)O)C=CC1)=O | C19H18N2O8
